US07138529B2
To a stirred solution of 2-Amino-3-cyano-4,5-dimethylthiophene (152 mg; 1.0 mmol) and diphenylacetyl chloride (300 mg; 1.3 mmol) in dry methylene chloride (10 mL) under nitrogen at room temperature was added triethylamine (0.42 mL; 3.0 mmol) dropwise. After 1.5 h, the mixture was washed with 1N HCl. The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo. The crude product was triturated with cold 30% ethylacetate/hexanes and filtered to give 162 mg (47%) of N-(3-Cyano-4,5-dimethyl-thiophen-2-yl)-2,2-diphenyl-acetamide as a white solid. ES-HRMS m/e calcd for C21H18N2OS (M+H+) 347.1213, found 347.1217.

reactant | 2-Amino-3-cyano-4,5-dimethylthiophene | 1.0 mmol, 152 mg | NC=1SC(=C(C1C#N)C)C | C7H8N2S
reactant | diphenylacetyl chloride | 1.3 mmol, 300 mg | C1(=CC=CC=C1)C(C(=O)Cl)C1=CC=CC=C1 | C14H11ClO
reactant | triethylamine | 3.0 mmol, 0.42 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(3-Cyano-4,5-dimethyl-thiophen-2-yl)-2,2-diphenyl-acetamide | 162 mg, 47% | C(#N)C1=C(SC(=C1C)C)NC(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H18N2OS
